US07476399B2
To a solution of heptan-4-amine (0.18 mL, 1 mmol) in CH2Cl2 (5 mL) was added 1-chloro-2-isocyanatobenzene (0.12 mL, 1 mmol) at room temperature. The reaction mixture was stirred for 2 h. A white solid was precipitated out. The reaction mixture was filtered. The solid was washed with CH2Cl2 to afford 1-(4-chlorophenyl)-3-(heptan-4-yl)urea (180 mg, 67%) as a white solid. mp: 135-136° C. 1H NMR (500 MHz, CDCl3): δ 0.93 (t, 6H), 1.45 (m, 6H), 1.53 (m, 2H), 3.80 (br s, 1H), 4.33 (d, 1H), 6.00 (s, 1H), 6.95 (td, 1H), 7.23 (dt, 1H), 7.33 (dd, 1H), 8.13 (dd, 1H). MS(M+H, 269).

reactant | heptan-4-amine | 1 mmol, 0.18 mL | CCCC(CCC)N | C7H17N
reactant | 1-chloro-2-isocyanatobenzene | 1 mmol, 0.12 mL | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-3-(heptan-4-yl)urea | 180 mg, 67% | ClC1=CC=C(C=C1)NC(=O)NC(CCC)CCC | C14H21ClN2O
